US06320051B1
2-[3-(5-Bromoindole-2-carboxamido)prop-1-ylamino]-1H-quinolin-4-one
To compound 1b (33 mg, 0.152 mmol) in DMF (3 ml) was added 5-bromoindole-2-carboxylic acid (40 mg, 0.167 mmol), 1-hydroxy-7-azabenzotriazole (23 mg, 0.167 mmol), and diethylaminomethyl-polystyrene (152 mg, 0.456 mmol). After 15 min 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (32 mg, 0.167 mmol) was added to the stirred mixture. The polystyrene was removed by filtration after 24 h and the solvent removed in vacuo. The resulting residue was purified by flash chromatography on silica gel eluting with EtOH:hexane (1:3) to give the title compound as a pink solid (43 mg, 87%); δH (CD3OD) 2.15-2.25 (2H, m), 3.63 (2H, t), 3.77 (2H, t), 5.93 (1H, s), 7.26 (1H, s), 7.40-7.70 (4H, m), 7.78 (1H, t), 7.97 (1H, s), 8.32 (1H, d); MS (ES−) 439.437 (100, 94% [M−H]−).

reactant | 5-bromoindole-2-carboxylic acid | 0.167 mmol, 40 mg | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | 1-hydroxy-7-azabenzotriazole | 0.167 mmol, 23 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diethylaminomethyl-polystyrene | 0.456 mmol, 152 mg | CCN(CC)CC1=CC=CC=C1.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 0.167 mmol, 32 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[3-(5-Bromoindole-2-carboxamido)prop-1-ylamino]-1H-quinolin-4-one | 43 mg, 87% | BrC=1C=C2C=C(NC2=CC1)C(=O)NCCCNC=1NC2=CC=CC=C2C(C1)=O | C21H19BrN4O2
